Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man
with history of CAD s/p multiple stent placements with most
recent stent placed ___, CABG x
3, severe AS, hypertension, dyslipidemia and thallasemia minor,
who presents with complaint of chest pain.

The patient's chest pain started at 7PM the evening prior to
admission, while walking around outside, and was associated with
rapid heart rate. The patient went to OSH where he was found to
have positive troponin, given a beta blocker, and started on
nitro gtt. The patient received aspirin via EMS prior to arrival
at the outside hospital. He states this pain feels similar to 
his
prior chest pain when he needed to have stents placed. Reports
his pain was relieved by nitro drip. He is currently pain-free.
The patient states that his pain was exacerbated by lying down.
Does not report dyspnea, cough, nausea, and diaphoresis. Does 
not
report numbness or paresthesias in extremities. No abdominal
pain.

Of note the patient had a cardiac cath in preparation for
possible TAVR that showed severe in-stent re-stenosis requiring
LCx ostium stenting.

In the ED...
- Initial vitals: T 97.0 HR 76 BP 138/62 RR 15 SpO2 96% RA

- EKG: Normal sinus rhythm, rate of 77, normal axis, normal
intervals, <1mm STD V2-V4 worse from prior.

- Labs/studies notable for: Hgb 9.3, Cr 0.8, troponin 0.05, INR
1.1

CXR ___
1. Blunting of the right costophrenic angle could be secondary 
to
a small
right pleural effusion or chronic pleural thickening.
2. Otherwise no acute cardiopulmonary process.

- Patient was given:
___ 03:22IV DRIPNitroglycerinStarted 0.5 mcg/kg/min
___ 03:22IVHeparin 4000u and gtt

- Vitals on transfer: HR 70, BP 97/51, RR 12, O2 sat 95% RA

On the floor, the patient confirmed the above history. He states
that lying down makes his chest pain worse. Otherwise, does not
currently have chest pain. Does not report fevers, chills,
shortness of breath, nausea, vomiting, abdominal pain, and
changes in bowel or bladder habits.
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes- none
- Hypertension- on amlodipine and losartan
- Dyslipidemia- on Crestor

2. CARDIAC HISTORY
- CABG: s/p 3-vessel in ___
- PERCUTANEOUS CORONARY INTERVENTIONS: Multiple prior stents to
RCA and LCx
- PACING/ICD: None

3. OTHER PAST MEDICAL HISTORY
Severe aortic stenosis
Thalassemia minor
 
Social History:
___
Family History:
Family history of mother and father both had heart failure and
MIs. Mother had CABG. Brother died of MI at age ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
=============================
VS: 98.0 ___
GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, nl S1/S2, ___ systolic murmur heard best at the RUSB, 
no
gallops or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
=======================
VS: 24 HR Data (last updated ___ @ 819)
    Temp: 97.9 (Tm 98.1), BP: 117/67 (100-140/46-74), HR: 58
(51-78), RR: 18 (___), O2 sat: 96% (96-99), O2 delivery: Ra    


GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera
NECK: supple, No JVD at 90 degrees
CV: RRR, nl S1/S2, ___ systolic murmur heard best at the RUSB
radiating to the carotids bilaterally, no gallops or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, NTND, no rebound/guarding
EXTREMITIES: no cyanosis, clubbing, edema
PULSES: difficult to palpate L radial pulse (pt says graft was
harvested there), but otherwise good distal pulses
NEURO: Alert, moving all extremities with purpose, face 
symmetric
DERM: WWP, no excoriations or lesions, no rashes
 
Pertinent Results:
Hematology
___ 03:00AM BLOOD WBC-4.3 RBC-3.85* Hgb-9.3* Hct-28.7* 
MCV-75* MCH-24.2* MCHC-32.4 RDW-19.1* RDWSD-47.8* Plt ___
___ 06:20AM BLOOD WBC-3.2* RBC-3.88* Hgb-9.4* Hct-29.4* 
MCV-76* MCH-24.2* MCHC-32.0 RDW-18.8* RDWSD-49.2* Plt ___
___ 03:00AM BLOOD Neuts-63.2 ___ Monos-10.9 Eos-1.2 
Baso-0.2 Im ___ AbsNeut-2.72 AbsLymp-1.03* AbsMono-0.47 
AbsEos-0.05 AbsBaso-0.01

Chemistries:
___ 03:00AM BLOOD Glucose-98 UreaN-12 Creat-0.8 Na-140 
K-4.0 Cl-102 HCO3-25 AnGap-13
___ 06:20AM BLOOD Glucose-101* UreaN-12 Creat-0.7 Na-141 
K-4.3 Cl-104 HCO3-26 AnGap-11
___ 03:00AM BLOOD Calcium-9.5 Phos-3.6 Mg-1.9
___ 06:20AM BLOOD Calcium-9.7 Phos-4.4 Mg-1.9

Cardiac Enzymes:
___ 03:00AM BLOOD cTropnT-0.05*
___ 10:18AM BLOOD CK-MB-8 cTropnT-0.08*
___ 06:20AM BLOOD CK-MB-4 cTropnT-0.06*

IMAGING:
CXR (___)
IMPRESSION:
1. Blunting of the right costophrenic angle could be secondary 
to a small
right pleural effusion or chronic pleural thickening.
2. Otherwise no acute cardiopulmonary process.
 
Brief Hospital Course:
___ w/ h/o CAD s/p multiple stent placements, most recent stent 
placed ___, CABG x3, severe AS, HTN, dyslipidemia and 
thallasemia minor, who p/w chest pain.

# CORONARIES: s/p 3-vessel CABG, stents to RCA and LCx (most
recent on ___
# PUMP: EF 71% on stress
# RHYTHM: Normal sinus rhythm, rate of 77, normal axis, normal
intervals, <1mm STD V2-V4 worse from prior

ACTIVE ISSUES:
==============
#Chest pain #CAD: The patient p/w chest pain iso recent stent 
placement. Troponin peaked at 0.08. Unlikely in-stent restenosis 
given time course, also very unlikely to be thrombosis. Also no 
STE on ECG. Consider vasospasm/elastic recoil. Possibly patient 
is hypovolemic and having type 2 NSTEMI. Less likely primary 
coronary event given recent cath. No cath performed this 
admission given recent cath. Initially started on heparin and 
nitroglycerin IV infusions but discontinued on AM of ___. Stool 
guaiac negative. Received ASA/Plavix, home Imdur 30 daily. 
Started Metoprolol tartrate 25 BID, reduced to 12.5mg BID on 
discharge. 

#Severe aortic stenosis: The patient was being worked up for 
TAVR
given his severe aortic stenosis. No TAVR planned currently

CHRONIC ISSUES:
===============
#HTN: continued home amlodipine and losartan

#HLD: continue home rosuvastatin

#Thalassemia minor: Baseline hemoglobin appears to be in 9s-10s. 
Stool guaiac negative ___, repeated and negative on 
___. Received 1uRBC transfusion.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. amLODIPine 5 mg PO DAILY 
5. Pantoprazole 20 mg PO Q24H 
6. Rosuvastatin Calcium 40 mg PO QPM 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  Pantoprazole 20 mg PO Q24H  
8.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Chest discomfort with elevated troponin
NSTEMI type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 It was a pleasure caring for you at ___.  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because you had chest discomfort after a 
recent cardiac catheterization on ___.  
 - You were admitted because your heart rate was very fast.

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 - You were monitored on telemetry and your rates were 
well-controlled.
 - You received a blood transfusion.
 
 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
- Please continue to take your home isosorbide mononitrate 30mg 
daily.
- Please continue to take your metroprolol tartrate 12.5mg twice 
a day. You will receive 25mg tablets, please cut these in half. 
You will receive 12.5mg today before you leave (___). Take 
another 12.5mg tonight after you go home.
- Please continue to take all other outpatient medications as 
prescribed.
- Please attend your appointment with Dr. ___ on ___ 
___ at 11:30am.

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  

 
Followup Instructions:
___